US07183276B2
To a mixture of tert-butyl 2-(methylsulfanyl)ethylcarbamate (3.5 g) and tetrahydrofuran (20 mL) was added lithium aluminum hydride (1.39 g) with stirring under ice-cooling and the mixture was heated under reflux for 2 hrs. After cooling the reaction mixture, sodium sulfate 10 hydrate (5 g) was added, and the solid was filtered off. The filtrate was concentrated and diluted with tetrahydrofuran, and di-tert-butyl dicarbonate was added dropwise with stirring under ice-cooling. After stirring at room temperature for 30 min, the reaction mixture was concentrated, diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and tert-butyl N-methyl-N-[2-(methylsulfanyl)ethyl]carbamate was obtained as a colorless oil (0.82 g, yield 22%) from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | tert-butyl 2-(methylsulfanyl)ethylcarbamate | 3.5 g | CSCCNC(OC(C)(C)C)=O | C8H17NO2S
reactant | lithium aluminum hydride | 1.39 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 5 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl N-methyl-N-[2-(methylsulfanyl)ethyl]carbamate | CN(C(OC(C)(C)C)=O)CCSC | C9H19NO2S
